US07071175B1
To crude 4-(2-ethoxycarbonyl-allyl)-piperazine-1-carboxylic acid tert-butyl ester (2.45 g, 8.2 mmol) was added thiolacetic acid (7.5 mL) under argon. The mixture was cooled to 0° C. and triethylamine (1.14 mL, 8.2 mmol) was added dropwise. The mixture was then stirred at room temperature for 2 d and thiolacetic acid (2.5 mL) was added. Stirring was continued for 1 d, then aqueous saturated sodium hydrogencarbonate solution was added carefully until neutral reaction and the mixture was extracted three times with dichloromethane. The combined organic layers were washed twice with aqueous saturated sodium hydrogencarbonate solution and once with brine. After drying over magnesium sulphate the solvent was removed under reduced pressure and the residue was purified by column chromatography (silica gel, 1.7% methanol in dichloromethane) to give 4-(3-acetylsulfanyl-2-ethoxycarbonyl-propyl)-piperazine-1-carboxylic acid tert-butyl ester (0.29 g, 9.4%).

reactant | 4-(2-ethoxycarbonyl-allyl)-piperazine-1-carboxylic acid tert-butyl ester | 8.2 mmol, 2.45 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CC(=C)C(=O)OCC | C15H26N2O4
reactant | thiolacetic acid | 7.5 mL | S1C(=CC=C1)CC(=O)O | C6H6O2S
reactant | triethylamine | 8.2 mmol, 1.14 mL | C(C)N(CC)CC | C6H15N
reactant | thiolacetic acid | 2.5 mL | S1C(=CC=C1)CC(=O)O | C6H6O2S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
product | 4-(3-acetylsulfanyl-2-ethoxycarbonyl-propyl)-piperazine-1-carboxylic acid tert-butyl ester | 0.29 g, 9.4% | C(C)(C)(C)OC(=O)N1CCN(CC1)CC(CSC(C)=O)C(=O)OCC | C17H30N2O5S
